US06689899B2
(1) Synthesis of (3′-Nitrophenyl)-3-nitrocinnamate
64.5 g (0.3 mole) of 3-nitrocinnamoyl chloride and 300 g of acetone were placed in a reaction vessel and stirred at 50° C. under a nitrogen current. 41.73 g (0.3 mole) of 3-nitrophenol, 60 g of pyridine, and 300 g of acetone were added dropwise to the above reaction vessel using a dropping funnel. After the completion of the addition, the reaction mixtures were stirred under a nitrogen current for 2 hours. After the reaction, the solid obtained by concentrating the solution was washed by water and dried. 85 g of light yellow colored needle-like crystals ((3-nitrophenyl)-3-cinnamate) was yielded.

reactant | 3-nitrocinnamoyl chloride | 0.3 mole, 64.5 g | [N+](=O)([O-])C=1C=C(C=CC(=O)Cl)C=CC1 | C9H6ClNO3
reactant | 3-nitrophenol | 0.3 mole, 41.73 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | pyridine | 60 g | N1=CC=CC=C1 | C5H5N
solvent | acetone | 300 g | CC(=O)C | C3H6O
solvent | acetone | 300 g | CC(=O)C | C3H6O
product | (3′-Nitrophenyl)-3-nitrocinnamate | 85 g | [N+](=O)([O-])C=1C=C(C=CC1)OC(C=CC1=CC(=CC=C1)[N+](=O)[O-])=O | C15H10N2O6
